US05852017
6-(2,5-Diphenyl-1-pyrrolyl)-7-chloro-2,3(1H,4H)-quinoxalinedione
16.5 mmol of 6-ammonio-7-chloro-2,3(1H,4H)-quinoxalinedione chloride were reacted with 16.5 mmol of 2,5-diphenyl-2,5-dimethoxytetrahydrofuran by the method of Example 5d.

reactant | 6-ammonio-7-chloro-2,3(1H,4H)-quinoxalinedione chloride | 16.5 mmol | [Cl-].[NH3+]C=1C=C2NC(C(NC2=CC1Cl)=O)=O
reactant | 2,5-diphenyl-2,5-dimethoxytetrahydrofuran | 16.5 mmol | C1(=CC=CC=C1)C1(OC(CC1)(OC)C1=CC=CC=C1)OC | C18H20O3
product | 6-(2,5-Diphenyl-1-pyrrolyl)-7-chloro-2,3(1H,4H)-quinoxalinedione | C1(=CC=CC=C1)C=1N(C(=CC1)C1=CC=CC=C1)C=1C=C2NC(C(NC2=CC1Cl)=O)=O | C24H16ClN3O2
